US06967198B2
N-(6-Oxo-5,6-dihydro-1H-[1,2]diazepino[4,5,6-cd]indol-8-yl)-2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yloxy)acetamide
In a manner analogous to that of Example 19, to a stirred suspension of 8-amino-1,5-dihydro-6H-[1,2]diazepino[4,5,6-cd] indol-6-one hydrochloride in anhydrous N,N-dimethylformamide (9 mL) was added bromoacetic acid (168 mg, 1.2 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (553 mg, 1.4 mmol) and triethylamine The reaction was stirred at room temperature for 16 hours. The volatile components were evaporated and water was added to the residue. The precipitated orange solids were collected by filtration and washed with water and ethyl acetate. After drying, the title compound (158 mg) was obtained as an orange powder in 35% yield.

reactant | 8-amino-1,5-dihydro-6H-[1,2]diazepino[4,5,6-cd] indol-6-one hydrochloride | Cl.NC=1C=C2C=3C(=CNC3C1)C=NNC2=O
reactant | bromoacetic acid | 1.2 mmol, 168 mg | BrCC(=O)O | C2H3BrO2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.4 mmol, 553 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
product | N-(6-Oxo-5,6-dihydro-1H-[1,2]diazepino[4,5,6-cd]indol-8-yl)-2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yloxy)acetamide | 158 mg, 35% yield | O=C1NN=CC2=CNC=3C=C(C=C1C23)NC(CON2N=NC=3C2=NC=CC3)=O | C17H12N8O3
